US09108969B2
Preparation of 1st Enantiomer of 2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid (Compound 29)
To a solution of the 1st enantiomer (described as the enantiomer isolated and having the retention time of 29.8 min per the conditions reported in Example 1.25) of 2-(7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid (0.049 mmol) in DCM (0.5 mL) at 0° C. was added NCS (0.049 mmol). The reaction was stirred for 15 minutes. The mixture was diluted with DCM and washed with water (twice) and saturated sodium thiolsulfate (aq). The organics were dried over Na2SO4, filtered, and concentrated to give the title compound as a yellow solid. LCMS m/z=482.3 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.29 (d, J=6.06 Hz, 6H), 2.24-2.35 (m, 1H), 2.51-2.59 (m, 1H), 2.77-2.87 (m, 1H), 2.94 (dd, J=16.36, 4.11 Hz, 1H), 3.62-3.74 (m, 1H), 3.96-4.05 (m, 1H), 4.11-4.19 (m, 1H), 4.74-4.83 (m, 1H), 5.10 (s, 2H), 6.86 (dd, J=8.78, 2.34 Hz, 1H), 6.96 (d, J=2.40 Hz, 1H), 7.28 (d, J=8.72 Hz, 1H), 7.31 (s, 1H), 7.65-7.72 (m, 2H), 12.35 (bs, 1H).

reactant | 2-(7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 0.049 mmol | C(C)(C)OC1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=C1)C(F)(F)F | C24H24F3NO4
reactant | NCS | 0.049 mmol | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CCC2CC(=O)O | C24H23ClF3NO4
